US06765008B1
4-(1-Ethyl-1-fluoro-propyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]-pyrimidine
The title compound was prepared by reacting 3-[2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-pentan-3-ol with dimethylaminosulfur trifluoride using the procedure described in Example 12.

reactant | 3-[2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-pentan-3-ol | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C(CC)(CC)O | C23H31N3O
reactant | dimethylaminosulfur trifluoride | CN(C)S(F)(F)F | C2H6F3NS
product | 4-(1-Ethyl-1-fluoro-propyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]-pyrimidine | C(C)C(CC)(F)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C23H30FN3
